US07199150B2
To a solution of cyclohexanone (32 ml, 0.31 mol) in dry dichloromethane (950 ml) were added successively 1,3-propanediol (33.5 ml, 0.46 mol), triethyl orthoformate (51.5 ml, 0.31 mol) and zirconium chloride (1.44 g, 6.18 mmol) with stirring, and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 1 hour. After stirring, ice-chilled 1N aqueous sodium hydroxide solution (1.5 l) was added to the reaction mixture with stirring, and the resulting mixture was extracted with dichloromethane. The extract was washed with water and dried over anhydrous sodium sulfate. After filtration, the solvent was removed in vacuo, and the residue was purified by reduced-pressure distillation to afford cyclohexanone trimethylene ketal (26.8 g, yield: 55%).

reactant | cyclohexanone | 0.31 mol, 32 ml | C1(CCCCC1)=O | C6H10O
reactant | 1,3-propanediol | 0.46 mol, 33.5 ml | C(CCO)O | C3H8O2
reactant | triethyl orthoformate | 0.31 mol, 51.5 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium hydroxide | 1N, 1.5 l | [OH-].[Na+]
solvent | dichloromethane | 950 ml | ClCCl | CH2Cl2
catalyst | zirconium chloride | 6.18 mmol, 1.44 g | [Cl-].[Zr+4].[Cl-].[Cl-].[Cl-]
product | cyclohexanone trimethylene ketal | 26.8 g, yield: 55% | C1CCOC2(CCCCC2)O1 | C9H16O2
